US06800623B2
Synthesis of 8-chloro-4-methyl-4,5-dihydro-1,3-dithia-4-aza-acenaphthylene 3,3-dioxide
0.2 g of 7-chloro-benzo[b]thiophene-3-sulphonic acid-methylamide are dissolved in 3 ml of methanesulphonic acid at 35° C. and combined with a solution of 0.03 g of trioxane in 0.9 ml trifluoroacetic acid. After 2 h stirring at 35° C. the reaction mixture is poured onto 100 ml of ice water and the aqueous phase is extracted with ethyl acetate. The combined organic extracts are dried with Na2SO4, evaporated down in vacuo and then purified by chromatography. Yield: 0.06 g. M.p.: 146° C.

reactant | 7-chloro-benzo[b]thiophene-3-sulphonic acid-methylamide | 0.2 g | CNS(=O)(=O)C=1C2=C(SC1)C(=CC=C2)Cl | C9H8ClNO2S2
reactant | trioxane | 0.03 g | O1OOCCC1 | C3H6O3
solvent | methanesulphonic acid | 3 ml | CS(=O)(=O)O | CH4O3S
solvent | trifluoroacetic acid | 0.9 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 8-chloro-4-methyl-4,5-dihydro-1,3-dithia-4-aza-acenaphthylene 3,3-dioxide | ClC1=CC=C2CN(S(C3=CSC1=C32)(=O)=O)C | C10H8ClNO2S2
